US04028402
Preparation of 1-phenethylbiguanide bis-(dichloroacetate)
161.0 G. of 1-phenethylbiguanide.HCl, 101.0 g. of sodium dichloroacetae and 216.0 g. of dichloroacetic acid were boiled together in 4.5 l. of absolute ethyl acetate at reflux for 1 hour. The hot solution was filtered under suction in order to separate the precipitated sodium chloride. The filtrate was concentrated in vacuo and treated with diisopropylether, whereby 1-phenethylbiguanide bis-(dichloroacetate) crystallized out analytically pure, M.P.: 131°-132° C.

reactant | 1-phenethylbiguanide | C(CC1=CC=CC=C1)NC(=N)NC(=N)N | C10H15N5
reactant | HCl | Cl | ClH
reactant | sodium | [Na] | Na
reactant | dichloroacetic acid | ClC(C(=O)O)Cl | C2H2Cl2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-phenethylbiguanide bis-(dichloroacetate) | ClC(C(=O)O)Cl.ClC(C(=O)O)Cl.C(CC1=CC=CC=C1)NC(=N)NC(=N)N | InChI=1S/C10H15N5.2C2H2Cl2O2/c11-9(12)15-10(13)14-7-6-8-4-2-1-3-5-8;2*3-1(4)2(5)6/h1-5H,6-7H2,(H6,11,12,13,14,15);2*1H,(H,5,6)
